US07173058B2
3-(7-Acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionamide was prepared by the procedure of example 6 from 3-[7-(acetylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.6 g, 1.3 mmol), CDI (0.3 g, 2 mmol) and NH4OH (0.20 ml, 2.6 mmol) in THF (30 ml) to give 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionamide as white solid (0.43 g, 72%): mp 129–131° C.; 1HNMR (CDCl3): δ 1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 2.25 (s, 3H, CH3CO), 2.97 (dd, J=5, 15 Hz, 1H, CH2), 3.42 (dd, J=10, 15 Hz, 1H, CH2), 4.08 (q, J=7.0 Hz, 2H, OCH2CH3), 4.20 (d, J=17.5 Hz, 1H, CH2N), 4.40 (d, J=17.5 Hz, 1H, CH2N), 5.40 (broad, 1H, NH2), 5.56 (m, 1H, CHN), 6.01 (broad, 1H), 6.56 (t, JH-F=75 Hz, 1H, CF2H), 6.95 (m, 3H, Ar), 7.15(d, J=7.5 Hz, 1H, Ar), 7.47 (t, J=7.5 Hz, 1H, Ar), 8.47 (d, J=7.5 Hz, 1H, Ar), 10.25 (s, 1H, NHCO). 13CNMR (DMSO-d6): δ 3.2, 14.4, 16.2, 24.4, 37.7, 46.7, 51.7, 64.2, 93.9, 113.0, 116.6, 117.2, 117.5, 119.2, 121.3, 132.8, 137.0, 138.2, 139.0, 142.2, 149.8, 168.0, 168.5, 171.0; Anal. Calcd. for C22H23F2N3O5: C, 59.06; H, 5.18; N, 9.39. Found: C, 58.48; H, 5.12; N, 9.65.

reactant | 3-[7-(acetylamino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.3 mmol, 0.6 g | C(C)(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC | C22H22F2N2O6
reactant | CDI | 2 mmol, 0.3 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | NH4OH | 2.6 mmol, 0.20 ml | [NH4+].[OH-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionamide | 0.43 g, 72% | C(C)(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)N)C1=CC(=C(C=C1)OC(F)F)OCC | C22H23F2N3O5
